US04382143
A mixture of 2.0 g of ethyl 2-methylthio-5-pyrimidinecarboxylate, 3.0 g. of hexadecylamine, and 20 ml. of hexamethylphosphoramide is heated at 110° C. for 10 hours, allowed to cool, and diluted with water. Filtration affords a solid which is crystallized from hexane to yield ethyl 2-hexadecylamino-5-pyrimidinecarboxylate as a tan solid.

reactant | ethyl 2-methylthio-5-pyrimidinecarboxylate | 2.0 g | CSC1=NC=C(C=N1)C(=O)OCC | C8H10N2O2S
reactant | hexadecylamine | C(CCCCCCCCCCCCCCC)N | C16H35N
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | ethyl 2-hexadecylamino-5-pyrimidinecarboxylate | C(CCCCCCCCCCCCCCC)NC1=NC=C(C=N1)C(=O)OCC | C23H41N3O2
